US09290511B2
iii) N-(2-morpholinoethyl)-1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.23099 g, 0.58928 mmol) was added to a suspension of 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidine-3-carboxylic acid (0.1 g, 0.29464 mmol) in acetonitrile (2 mL). Triethylamine (0.123 mL, 0.089443 g, 0.88391 mmol) and 2-morpholinoethanamine (0.0773 mL, 0.076718 g, 0.58928 mmol) were added and the mixture was stirred for 4 hr at room temperature. The solvent was evaporated and the residue was diluted with ethyl acetate (2 mL) and water (2 mL). The layers were separated and the aqueous was extracted with ethyl acetate (2×2 mL). The combined organic layers were washed with saturated aqueous sodium hydrogencarbonate (1×10 mL), dried (magnesium sulfate), filtered and evaporated to give a brown oil. Mass: 0.275 g. This was purified by prep HPLC (basic method 1). Fractions corresponding to the main peak were combined and evaporated to give a yellow oil. Yield=92 mg. LCMS [M+H]+=452; RT=2.89 min Other compounds prepared by Method K using the appropriate starting materials are listed in TABLE 1.

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.58928 mmol, 0.23099 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidine-3-carboxylic acid | 0.29464 mmol, 0.1 g | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)N2CC(CCC2)C(=O)O | C18H17N3O2S
reactant | Triethylamine | 0.88391 mmol, 0.123 mL, 0.089443 g | C(C)N(CC)CC | C6H15N
reactant | 2-morpholinoethanamine | 0.58928 mmol, 0.0773 mL, 0.076718 g | O1CCN(CC1)CCN | C6H14N2O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-(2-morpholinoethyl)-1-(5-phenylthieno[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide | O1CCN(CC1)CCNC(=O)C1CN(CCC1)C=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C24H29N5O2S
